US08703771B2
Step C: N-(2-Methyl-5-nitrophenyl)-4,5′-bipyrimidine-2-amine
(2E)-3-(Dimethylamino)-1-pyrimidin-5-ylprop-2-en-1-one (1 g, 5.6 mmol) and N-(2-methyl-5-nitrophenyl)guanidine nitrate (1.44 g, 5.6 mmol) (Z. Szakacs et al., J. Med. Chem. 2005, 48, 249) were suspended in 20 mL of isopropanol. Sodium hydroxide (0.28 g, 7 mmol) was then added. The mixture solution was stirred overnight and cooled to room temperature. The solid was collected by filtration and rinsed with isopropanol and diethyl ether. The filtrate was concentrated under reduced pressure and the residue was dissolved in 15 mL of isopropanol. The solution obtained was refluxed overnight and cooled to room temperature. The solid was collected by filtration and rinsed with isopropanol and diethyl ether. The pooled solid was rinsed with water and diethyl ether, and dried in vacuum to obtain 1.2 g (70% yield) of the title compound. MS (M+1)=309.10.

reactant | (2E)-3-(Dimethylamino)-1-pyrimidin-5-ylprop-2-en-1-one | 5.6 mmol, 1 g | CN(/C=C/C(=O)C=1C=NC=NC1)C | C9H11N3O
reactant | N-(2-methyl-5-nitrophenyl)guanidine nitrate | 5.6 mmol, 1.44 g | [N+](=O)(O)[O-].CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N
reactant | Sodium hydroxide | 7 mmol, 0.28 g | [OH-].[Na+]
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | N-(2-Methyl-5-nitrophenyl)-4,5′-bipyrimidine-2-amine | 1.2 g, 70% yield | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=NC1 | C15H12N6O2
